US08580762B2
ethyl 3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanoate
A solution of N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-6-((isopropylamino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (9.50 g, 15.3 mmol) in 1,2-Dichloroethane (75 mL, 950 mmol) was treated with ethyl 3-(3-oxocyclobutyl)propanoate (3.92 g, 23.0 mmol) and Acetic acid (1.0 mL, 18 mmol;) dropwise followed by Sodium triacetoxyborohydride (4.58 g, 21.6 mmol) and the mixture was stirred at RT for 6 days. The reaction mixture was diluted with 150 mL CH2Cl2 and washed with 100 mL sat NaHCO3. The aqueous phase was washed with 100 mL CH2Cl2 and the combined organic phase was dried over Na2SO4, filtered and concentrated to yield a light brown viscous glass.

reactant | N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-6-((isopropylamino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 15.3 mmol, 9.50 g | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@H]2OC(O[C@H]23)(C)C)CNC(C)C)C=CC(=C1)OC | C27H37N5O4
reactant | 1,2-Dichloroethane | 950 mmol, 75 mL | ClCCCl | C2H4Cl2
reactant | ethyl 3-(3-oxocyclobutyl)propanoate | 23.0 mmol, 3.92 g | O=C1CC(C1)CCC(=O)OCC | C9H14O3
reactant | Acetic acid | 18 mmol, 1.0 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 21.6 mmol, 4.58 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)cyclobutyl)propanoate | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CN(C2CC(C2)CCC(=O)OCC)C(C)C)C=CC(=C1)OC | C36H51N5O6
